US07781478B2
A suspension of 3-cyano-1-ethyl-1H-indole-6-carboxylic acid (0.42 g, 1.96 mmol) in CH2Cl2 (15 mL) is cooled to 0° C. The suspension is treated with DMF (2 drops) and then oxalyl chloride (0.34 mL, 3.92 mmol) is added via syringe during 2 minutes after which the ice bath is removed and the reaction mixture is allowed to warm to ambient temperature during 1.5 h during which time the reaction becomes a yellow solution. The solution is then concentrated in vacuo to afford 0.46 g (quantitative yield) of 3-cyano-1-ethyl-1H-indole-6-carbonyl chloride as a yellow solid.

reactant | 3-cyano-1-ethyl-1H-indole-6-carboxylic acid | 1.96 mmol, 0.42 g | C(#N)C1=CN(C2=CC(=CC=C12)C(=O)O)CC | C12H10N2O2
reactant | oxalyl chloride | 3.92 mmol, 0.34 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 3-cyano-1-ethyl-1H-indole-6-carbonyl chloride | 0.46 g, quantitative yield | C(#N)C1=CN(C2=CC(=CC=C12)C(=O)Cl)CC | C12H9ClN2O
